US08431575B2
A mixture of 3-(3-bromo-4-cyclohexyloxy-phenyl)-2-hydroxy-4-oxo-octanoic acid ethyl ester (4.39 mmol, 2.0 g) and hydrazine hydrate (2.0 mL) in acetic acid (10 mL) was kept stirring at 120° C. for 3 h. The reaction mixture was concentrated under reduced pressure and to the residue was added water, extracted with ethyl acetate dried and concentrated under reduced pressure, dried to provide 5-(3-bromo-4-cyclohexyloxy-phenyl)-6-butyl-pyridazin-3-ol (1.7 g).

reactant | 3-(3-bromo-4-cyclohexyloxy-phenyl)-2-hydroxy-4-oxo-octanoic acid ethyl ester | 4.39 mmol, 2.0 g | C(C)OC(C(C(C(CCCC)=O)C1=CC(=C(C=C1)OC1CCCCC1)Br)O)=O | C22H31BrO5
reactant | hydrazine hydrate | 2.0 mL | O.NN
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-(3-bromo-4-cyclohexyloxy-phenyl)-6-butyl-pyridazin-3-ol | 1.7 g | BrC=1C=C(C=CC1OC1CCCCC1)C=1C=C(N=NC1CCCC)O | C20H25BrN2O2
